US03997588
A solution of 20 parts of (6-chloro-2-oxohexyl)-triphenylphosphonium chloride in 200 parts of water is made alkaline by the addition of a 50% aqueous sodium hydroxide solution and extracted with benzene. The combined organic extracts are dried over anhydrous sodium sulfate, then stripped of solvent under reduced pressure to afford (5-chloropentanoylmethylene)triphenylphosphorane. Alternatively, this may be used immediately as a solution in benzene.

reactant | (6-chloro-2-oxohexyl)-triphenylphosphonium chloride | [Cl-].ClCCCCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | (5-chloropentanoylmethylene)triphenylphosphorane | ClCCCCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClOP
